US04018790
Two grams of 1-dimethylaminosulfonyl-2-amino-5-benzimidazolecarboxylic acid hydrazide, 8 g. of Raney nickel and 100 ml. of 2B ethanol were refluxed for 4 hours. The cooled mixture was filtered and the catalyst was washed with ethanol. The ethanol washings were combined with the filtrate. The ethanol solution was evaporated to dryness in vacuo. The residue was dissolved in methanol and the solution was filtered through a fritted glass funnel having 4 mm. layer of alumina. The methanol filtrate was concentrated in vacuo to provide 1-dimethylaminosulfonyl-2-amino-5-benzimidazolecarboxamide hydrate, m.p. about 208°-209° C.

reactant | 1-dimethylaminosulfonyl-2-amino-5-benzimidazolecarboxylic acid hydrazide | Two grams | CN(S(=O)(=O)N1C(=NC2=C1C=CC(=C2)C(=O)NN)N)C | C10H14N6O3S
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 1-dimethylaminosulfonyl-2-amino-5-benzimidazolecarboxamide hydrate | O.CN(S(=O)(=O)N1C(=NC2=C1C=CC(=C2)C(=O)N)N)C | InChI=1S/C10H13N5O3S.H2O/c1-14(2)19(17,18)15-8-4-3-6(9(11)16)5-7(8)13-10(15)12;/h3-5H,1-2H3,(H2,11,16)(H2,12,13);1H2
